US05942532
2-[4-(1,1-dimethylethyl)phenyl]-1H-Benzimidazole-5-carboximidamide
To 4-tert-butylbenzaldehyde (0.4000 g, 0.00247 mol) was added 3 mL of 40% NaHSO3 (aq). The mixture was stirred for 2 h at 25° C. 3,4-Diaminobenzamidine dihydrochloride (0.56 g, 0.0025 mol) and ethanol (8 mL) were added. The mixture was refluxed for 3 h. The reaction was then poured into water. The precipitate filtered and recrystallized from 2N HCl to afford 1H-benzimidzole-5-carboximidamide, 2-[4-(1,1-dimethylethyl)phenyl]- (400 mg, 44%) as a white solid: 1H NMR (DMSO-d6) δ9.47 (bs, 2 NH), 9.15 (bs, 2 NH), 8.30 (d, 2 arom-H, J=8 Hz), 8.21 (s, 1 arom-H), 7.88 (d, 1 arom-H, J=8 Hz), 7.73 (d, 1 arom-H, J=9 Hz), 7.68 (d, 2 arom-H, J=8 Hz), 1.35 (s, 9 tert-butyl-H).

reactant | 4-tert-butylbenzaldehyde | 0.00247 mol, 0.4000 g | C(C)(C)(C)C1=CC=C(C=O)C=C1 | C11H14O
reactant | NaHSO3 | 3 mL | OS(=O)[O-].[Na+]
reactant | 3,4-Diaminobenzamidine dihydrochloride | 0.0025 mol, 0.56 g | Cl.Cl.NC=1C=C(C(=N)N)C=CC1N
reactant | ethanol | 8 mL | C(C)O | C2H6O
solvent | water | O | H2O
product | 2-[4-(1,1-dimethylethyl)phenyl]-1H-Benzimidazole-5-carboximidamide | CC(C)(C)C1=CC=C(C=C1)C1=NC2=C(N1)C=CC(=C2)C(N)=N | C18H20N4
